US04889857
By the use of 1-cyclopropyl-6,7,8-trifluoro-1,4-dihydro-4-oxoquinoline-3-carboxylic acid and 2-(2-formylaminoethyl)morpholine, the reaction is similarly carried out as Example 11 to give 1-cyclopropyl-6,8-difluoro-7-[2-(2-formylaminoethyl)morpholino]-1,4-dihydro-4-oxoquinoline-3-carboxylic acid.

reactant | 1-cyclopropyl-6,7,8-trifluoro-1,4-dihydro-4-oxoquinoline-3-carboxylic acid | C1(CC1)N1C=C(C(C2=CC(=C(C(=C12)F)F)F)=O)C(=O)O | C13H8F3NO3
reactant | 2-(2-formylaminoethyl)morpholine | C(=O)NCCC1CNCCO1 | C7H14N2O2
product | 1-cyclopropyl-6,8-difluoro-7-[2-(2-formylaminoethyl)morpholino]-1,4-dihydro-4-oxoquinoline-3-carboxylic acid | C1(CC1)N1C=C(C(C2=CC(=C(C(=C12)F)N1CC(OCC1)CCNC=O)F)=O)C(=O)O | C20H21F2N3O5
